US05936097
467 mg (1 mmol) of (3aRS, 4SR, 9SR, 9aRS)-4,9-ethano-2-(2-methoxyphenyl)acetyl-9-phenyl-2,3,3a,4,9,9a-hexahydro-1H-benzo[f]isoindole-3a-carboxylic acid and 200 mg (1.2 mmol) of N,N'-carbonyldiimidazole are dissolved in 20 cm3 of dry dichloromethane. 10 cm3 of a 0.5N solution of ammonia in ethanol are then added and the mixture is then stirred for 16 hours at a temperature in the region of 20° C. After diluting with 50 cm3 of dichloromethane, the reaction mixture is washed successively, by separation by settling, with 50 cm3 of a 4N hydrochloric acid solution and then with 2 times 25 cm3 of a saturated sodium chloride solution, dried over sodium sulphate and concentrated under reduced pressure. The residue obtained is recrystallized from 13 cm3 of ethyl acetate. 350 mg (75%) of (3aRS, 4SR, 9SR, 9aRS)-4,9-ethano-2-(2-methoxyphenyl)acetyl-9-phenyl-2,3,3a,4,9,9a-hexahydro-1H-benzo[f]isoindole-3a-carboxamide are thus obtained in the form of white crystals, the characteristics of which are as follows: melting point=262-4° C., 1H N.M.R. spectrum (250 MHz, d6-(CD3)2SO, at a temperature of 383 K, δ in ppm): 1.36, 1.60, 1.88 and 2.05 (4 mts, each 1H, CH2CH2), from 3.20 to 3.65 (mt, 7H, CH2 at 1, COCH2Ar, 1H of the CH2 at 3, H at 4 and H at 9a), 3.67 (unresolved peak, 3H, OCH3), 4.22 (d, J=12.5 Hz, 1H, the other H of the CH2 at 3), 6.37 (broad d, J=7.5 Hz, 1H, H at 8), 6.75 (unresolved peak, 2H, CONH2), 6.88 (broad t, J=7.5 Hz, 1H, aromatic H para to the OCH3), 6.94 (broad d, J=7.5 Hz, 1H, aromatic H ortho to the OCH3), 7.02 (dt, J=7.5 and 2 Hz, 1H, H at 7), from 7.05 to 7.30 (mt, 4H, H at 5, H at 6 and aromatic H meta to the OCH3), 7.39 (mt, 3H, aromatic H in the ortho and para positions of the phenyl at 9), 7.48 (t, J=7.5 Hz, 2H, aromatic H in the meta positions of the phenyl at 9).

reactant | 2-(2-methoxyphenyl)acetyl-9-phenyl-2,3,3a,4,9,9a-hexahydro-1H-benzo[f]isoindole-3a-carboxylic acid | COC1=C(C=CC=C1)CC(=O)C1NCC2(CC3=C(C(C12)C1=CC=CC=C1)C=CC=C3)C(=O)O | C28H27NO4
reactant | ammonia | N | H3N
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
product | 2-(2-methoxyphenyl)acetyl-9-phenyl-2,3,3a,4,9,9a-hexahydro-1H-benzo[f]isoindole-3a-carboxamide | COC1=C(C=CC=C1)CC(=O)C1NCC2(CC3=C(C(C12)C1=CC=CC=C1)C=CC=C3)C(=O)N | C28H28N2O3
